US07514566B2
tert-Butyl 5-(cinnolin-6-yl)thiazol-2-ylcarbamate
The title compound (0.24 g, 60%) was synthesized in a manner similar to that described in Example 253 from 6-bromocinnoline (0.25 g, 1.0 mmol) and tert-butyl 5-(tributylstannyl)thiazol-2-ylcarbamate (0.90 g, 1.5 eq). LCMS (API-ES) m/z (%): 329.4 (100%, M++H).

reactant | 6-bromocinnoline | 1.0 mmol, 0.25 g | BrC=1C=C2C=CN=NC2=CC1 | C8H5BrN2
reactant | tert-butyl 5-(tributylstannyl)thiazol-2-ylcarbamate | 0.90 g, 1.5 eq | C(CCC)[Sn](C1=CN=C(S1)NC(OC(C)(C)C)=O)(CCCC)CCCC
product | tert-Butyl 5-(cinnolin-6-yl)thiazol-2-ylcarbamate | 0.24 g, 60% | N1=NC=CC2=CC(=CC=C12)C1=CN=C(S1)NC(OC(C)(C)C)=O | C16H16N4O2S
